US07732452B2
To a suspension of 4-{2-[5-(2-chloro-phenyl)-pyridin-2-yloxy]-acetylamino}-thiophene-3-carboxylic acid methyl ester (79 mg) in ethanol (10 mL) was added a solution of sodium hydroxide (1M, 0.392 mL) and THF (8 mL) and the reaction mixture was stirred at room temperature over night. After such time the reaction mixture was acidified by addition of a solution of hydrochloric acid (1N, 0.395 mL) and then water was added. The precipitate was isolated by filtration, washed with water and dried in vacuo to yield 4-{2-[5-(2-chloro-phenyl)-pyridin-2-yloxy]-acetylamino}-thiophene-3-carboxylic acid (51 mg, 67%).

reactant | 4-{2-[5-(2-chloro-phenyl)-pyridin-2-yloxy]-acetylamino}-thiophene-3-carboxylic acid methyl ester | 79 mg | COC(=O)C1=CSC=C1NC(COC1=NC=C(C=C1)C1=C(C=CC=C1)Cl)=O | C19H15ClN2O4S
reactant | sodium hydroxide | 1M, 0.392 mL | [OH-].[Na+]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1N, 0.395 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-{2-[5-(2-chloro-phenyl)-pyridin-2-yloxy]-acetylamino}-thiophene-3-carboxylic acid | 51 mg, 67% | ClC1=C(C=CC=C1)C=1C=CC(=NC1)OCC(=O)NC=1C(=CSC1)C(=O)O | C18H13ClN2O4S
